US08492378B2
2-(1-benzofuran-5-yl)-5-[(3-chlorobenzyl)thio]-1,3,4-oxadiazole
In the same manner as in Example 1 and using 5-(1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 3-chlorobenzyl chloride instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 89%) was obtained as colorless crystals.

reactant | 5-(1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | O1C=CC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H6N2O2S
reactant | 3-chlorobenzyl chloride | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
product | 2-(1-benzofuran-5-yl)-5-[(3-chlorobenzyl)thio]-1,3,4-oxadiazole | yield 89% | O1C=CC2=C1C=CC(=C2)C=2OC(=NN2)SCC2=CC(=CC=C2)Cl | C17H11ClN2O2S
